US08802864B2
f) 4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3R)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one
A solution of 4-(4-bromophenyl)-5-{[(3R)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (0.256 mmol) in dioxane (1.5 mL) was treated with 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-benzofuran (0.281 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)-dichloromethane adduct (10 mg), and 2M aq potassium carbonate (0.767 mmol). The reaction mixture was purged with nitrogen, sealed, and irradiated in a microwave (Biotage Initiator) at 150° C. for 15 min. The reaction mixture was cooled to room temperature and was diluted with water (50 mL). The aqueous layer was acidified to pH ˜4 using 1N aq HCl and was extracted with dichloromethane. The resulting organic phase was treated with Si-Thiol (Silicycle, 20 mg), dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by reverse phase HPLC (20-50% acetonitrile/water+0.1% NH4OH) to afford the title compound as an amorphous white solid (35%). MS(ES)+ m/e 429.0 [M+H]+.

reactant | 4-(4-bromophenyl)-5-{[(3R)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.256 mmol | BrC1=CC=C(C=C1)N1C(NN=C1C[C@@H]1CN(CC1)C(=O)C1CC1)=O | C17H19BrN4O2
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-benzofuran | 0.281 mmol | CC1(OB(OC1(C)C)C=1C=CC2=C(C=CO2)C1)C | C14H17BO3
reactant | potassium carbonate | 0.767 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane | 10 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3R)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 35% | O1C=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2C(NN=C2C[C@@H]2CN(CC2)C(=O)C2CC2)=O | C25H24N4O3
